US08791132B2
To a solution of 2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethanol (2.0 g, 9.04 mmol) in DMF (20 mL) was added sodium hydride (1.0 g, 25 mmol). After stirring at RT for 20 min, a solution of N,N-dimethyl carbamoyl chloride (1.9 g, 17.7 mmol) in DMF (5 mL) was added dropwise into the reaction mixture, which was stirred at RT for 1 h. The progress of reaction was monitored by TLC and LCMS. The reaction mixture was poured into ice water (400 mL) and extracted with EtOAc (3×200 mL). The organic layer was washed with water (3×300 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (5-7% MeOH in DCM) to yield N,N-dimethyl-carbamic acid 2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethyl ester (100 mg). 1H NMR (CD3OD, freebase) δ (ppm): 8.5 (d, 2H), 7.34 (d, 2H), 7.31 (d, 1H), 7.21 (s, 1H), 7.00 (d, 1H), 5.96 (t,1H), 4.53 (dd, 1H), 4.45 (dd, 1H), 3.49 (t, 2H), 2.98 (m, 2H), 2.95 (m, 5H), 2.92 (s, 3H), 2.77 (s, 3H), 2.39 (s, 3H). Separation by chiral HPLC provided enantiomers 141a and 141b.

reactant | 2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethanol | 9.04 mmol, 2.0 g | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(O)C2=CC=NC=C2)CC1 | C20H23N3O
reactant | sodium hydride | 25 mmol, 1.0 g | [H-].[Na+]
reactant | N,N-dimethyl carbamoyl chloride | 17.7 mmol, 1.9 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N,N-dimethyl-carbamic acid 2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethyl ester | 100 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(C2=CC=NC=C2)OC(N(C)C)=O)CC1 | C23H28N4O2
